US09290451B2
b) tert-Butyl 3-(dimethylcarbamoyl)pentan-3-ylcarbamate
2-(tert-butoxycarbonylamino)-2-ethylbutanoic acid ((200 mg, 0.87 mmol), HATU (CAN 148893-10-1, 660 mg, 1.74 mmol) and triethylamine (CAN 121-44-8, 260 mg, 2.61 mmol) was added to a solution of dimethylamine hydrochloride (CAN 506-59-2, 117 mg, 1.74 mmol) in DMF (10 mL). The mixture was stirred overnight at room temperature. The mixture was added to water (20 mL) and extracted with ethyl acetate (30 mL). The organic extracts were washed with brine, dried over anhydrous sodium sulfate, concentrated, and purified by prep-HPLC (eluting with 30% ethyl acetate in petroleum ether) to give the product (120 mg, 53.7%); MS (EI): m/e=259.2 [M+H]+

reactant | 2-(tert-butoxycarbonylamino)-2-ethylbutanoic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)(CC)CC | C11H21NO4
reactant | HATU | 1.74 mmol, 660 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 2.61 mmol, 260 mg | C(C)N(CC)CC | C6H15N
reactant | dimethylamine hydrochloride | 1.74 mmol, 117 mg | Cl.CNC
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | tert-Butyl 3-(dimethylcarbamoyl)pentan-3-ylcarbamate | 120 mg, 53.7% | CN(C(=O)C(CC)(CC)NC(OC(C)(C)C)=O)C | C13H26N2O3
